US05073551
A methylene chloride-acetic acid (20 ml-10 ml) solution of diphenylmethyl 7-(4-bromoacetoacetamido)-3-[(Z)-2-(1,2,3-thiadiazol-4-yl)vinyl]-3-cephem-4-carboxylate (2.22 g, 3.4 mmol) was cooled from -7° C. to -5° C. and an aqueous solution (2 ml) of sodium nitrite (0.32 g, 4.6 mmol) was added in portions. After its dropwise addition the mixture was stirred for 30 minutes, then urea (0.3 g) was added and the temperature of the reaction solution was returned to toom temperature. The reaction mixture was extracted with methylene chloride, then washed with water (40 ml×2) and then dried over magnesium sulfate. When the solvent was distilled off, diphenylmethyl 7-(4-bromo-2-hydroxyiminoacetoacetamido)-3-[(Z)-2-(1,2,3-thiadiazol-4-yl)vinyl]-3-cephem-4-carboxylate (1.85 g) was obtained as a light yellow powder compound.

reactant | diphenylmethyl 7-(4-bromoacetoacetamido)-3-[(Z)-2-(1,2,3-thiadiazol-4-yl)vinyl]-3-cephem-4-carboxylate | 3.4 mmol, 2.22 g | BrCC(CC(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/C=2N=NSC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=O | C28H23BrN4O5S2
reactant | sodium nitrite | 4.6 mmol, 2 ml, 0.32 g | N(=O)[O-].[Na+]
reactant | urea | 0.3 g | NC(=O)N | CH4N2O
solvent | methylene chloride acetic acid | 20 ml-10 ml | C(Cl)Cl.C(C)(=O)O
product | diphenylmethyl 7-(4-bromo-2-hydroxyiminoacetoacetamido)-3-[(Z)-2-(1,2,3-thiadiazol-4-yl)vinyl]-3-cephem-4-carboxylate | 1.85 g | BrCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/C=2N=NSC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NO)=O | C28H22BrN5O6S2
